US07465815B2
1-((2-(4-Isopropylbenzyl)-3,5-dimethylphenoxy)acetyl)-2-methylaziridine
To a solution of (2-(4-isopropylbenzyl)-3,5-dimethylphenoxy)acetic acid obtained in Reference Example 157 (9.00 g, 28.8 mmol) in THF (90 mL) was added dropwise oxalylchloride (3.77 mL, 43.2 mmol) with ice-cooling, and was then added DMF (four drops), and then the mixture was stirred for 30 minutes. The reaction solution was stirred at room temperature for 30 minutes, and the solvent was distilled off under reduced pressure. To a solution of propyleneimine (1.97 g, 34.6 mmol) and triethylamine (4.82 mL, 34.6 mmol) in THF (80 mL) was added dropwise the obtained solution of acid chloride in THF (100 mL) with ice-cooling. The mixture was stirred for 30 minutes, and then was warmed to room temperature, and water was added to the reaction solution, which was extracted with ethyl acetate. The combined organic layer was washed with a saturated brine, dried over sodium sulfate, and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=2:3) to obtain 10.0 g (yield 99%) of the title compound. Oily matter.

reactant | (2-(4-isopropylbenzyl)-3,5-dimethylphenoxy)acetic acid | C(C)(C)C1=CC=C(CC2=C(OCC(=O)O)C=C(C=C2C)C)C=C1 | C20H24O3
reactant | oxalylchloride | 43.2 mmol, 3.77 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | propyleneimine | 34.6 mmol, 1.97 g | CC1CN1 | C3H7N
reactant | triethylamine | 34.6 mmol, 4.82 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 90 mL | C1CCOC1 | C4H8O
catalyst | DMF | four drops | CN(C)C=O | C3H7NO
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-((2-(4-Isopropylbenzyl)-3,5-dimethylphenoxy)acetyl)-2-methylaziridine | 10.0 g, yield 99% | C(C)(C)C1=CC=C(CC2=C(OCC(=O)N3C(C3)C)C=C(C=C2C)C)C=C1 | C23H29NO2
